US07919642B2
12.1 g (0.21 mole) of allyl alcohol were added dropwise at room temperature and in a flow of nitrogen to 30.6 g (0.19 mole) of 2-trifluoromethyl acrylic acid chloride, and after addition of the allyl alcohol was completed, the components were stirred for 8 hours at 50° C. Gas chromatography confirmed formation of allyl 1-chloro-2-trifluoromethylpropionate, and a non-reacted substance was removed by distillation under a reduced pressure. The product was combined with 0.04 g of a 10% isopropanol solution of a chloroplatinic acid, and 32.8 g (0.2 moles) of triethoxysilane were added dropwise at 70° C. Following this, the product was stirred for 2 hours at 100° C., and the reaction mixture was subjected to distillation to produce 25.7 g of 3-(2′-trifluoromethyl-3′-chloropropionoxy)propyltriethoxysilane. The 1H-NMR spectrum of the obtained product is shown in FIG. 1. The yield was 36%, and the boiling point of the obtained compound was 118° C./2 mm Hg.

reactant | allyl alcohol | 0.21 mole, 12.1 g | C(C=C)O | C3H6O
reactant | 2-trifluoromethyl acrylic acid chloride | 0.19 mole, 30.6 g | FC(C(C(=O)Cl)=C)(F)F | C4H2ClF3O
reactant | triethoxysilane | 0.2 moles, 32.8 g | C(C)O[SiH](OCC)OCC | C6H16O3Si
reactant | isopropanol | C(C)(C)O | C3H8O
catalyst | chloroplatinic acid | [H+].[H+].Cl[Pt-2](Cl)(Cl)(Cl)(Cl)Cl
product | 3-(2′-trifluoromethyl-3′-chloropropionoxy)propyltriethoxysilane | 25.7 g, yield was 36% | FC(C(C(=O)OCCC[Si](OCC)(OCC)OCC)CCl)(F)F | C13H24ClF3O5Si
